US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 7-fluoro-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.41 g) and [(1-ethylpyrazol-4-yl)methyl](4-isopropylphenyl)amine (0.51 g) as starting materials, N-[(1-ethylpyrazol-4-yl)methyl]-7-fluoro-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.33 g) was obtained.

reactant | 7-fluoro-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.41 g | FC1=CC=C2CCCC(C2=C1)C(=O)O | C11H11FO2
reactant | [(1-ethylpyrazol-4-yl)methyl](4-isopropylphenyl)amine | 0.51 g | C(C)N1N=CC(=C1)CNC1=CC=C(C=C1)C(C)C | C15H21N3
product | N-[(1-ethylpyrazol-4-yl)methyl]-7-fluoro-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.33 g | C(C)N1N=CC(=C1)CN(C(=O)C1CCCC2=CC=C(C=C12)F)C1=CC=C(C=C1)C(C)C | C26H30FN3O
